US04997840
A mixture of 1,7-dimethyl-4-oxo-1,4-dihydroquinol-3-yl benzoate (1.45 g), piperidine (0.49 ml) and dichloromethane (14 ml) was stirred at ambient temperature under nitrogen for 3 days. Further piperidine (0.13 ml) was added and the mixture stirred overnight. The solvent was removed by distillation and the residue triturated with diethyl ether (20 ml) to give the novel compound 3-hydroxy-1,7- dimethyl-4quinolone, m.p. 268°.

reactant | 1,7-dimethyl-4-oxo-1,4-dihydroquinol-3-yl benzoate | 1.45 g | C(C1=CC=CC=C1)(=O)OC1=CN(C2=CC(=CC=C2C1=O)C)C | C18H15NO3
reactant | piperidine | 0.49 ml | N1CCCCC1 | C5H11N
reactant | piperidine | 0.13 ml | N1CCCCC1 | C5H11N
solvent | dichloromethane | 14 ml | ClCCl | CH2Cl2
product | 3-hydroxy-1,7- dimethyl-4quinolone | OC1=CN(C2=CC(=CC=C2C1=O)C)C | C11H11NO2
